US03947446
Preparation of 4-(2-Methylphenyl)-1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-prop-1-yl]-piperazine
1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-propyl]-4-(2-methoxyphenyl)-piperazine from 5,6,7,8-tetrahydro-1-naphthol and 1-(3-chloropropyl)-4-(2-methoxyphenyl)-piperazine; yield 48% of theory; m.p. of the dihydrochloride 202°-203°C. (decomp.).

reactant | 1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-propyl]-4-(2-methoxyphenyl)-piperazine | C1(=CC=CC=2CCCCC12)OCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C24H32N2O2
reactant | 5,6,7,8-tetrahydro-1-naphthol | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | 1-(3-chloropropyl)-4-(2-methoxyphenyl)-piperazine | ClCCCN1CCN(CC1)C1=C(C=CC=C1)OC | C14H21ClN2O
reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
product | 4-(2-Methylphenyl)-1-[3-(5,6,7,8-tetrahydronaphth-1-yloxy)-prop-1-yl]-piperazine | CC1=C(C=CC=C1)N1CCN(CC1)CCCOC1=CC=CC=2CCCCC12 | C24H32N2O
